US07425634B2
(51b) 2-methyl-3-((trimethylsilyl)ethynyl)pyridine
First, 2-methylpyridin-3-yl trifluoromethanesulfonate (34.3 g, 142 mmol), trimethylsilylacetylene (30 ml, 212 mmol), bis(triphenylphosphine)palladium (II) chloride (10.0 g, 14.2 mmol), and copper (I) iodide (2.75 g, 14.4 mmol) were dissolved in N,N-dimethyl formamide (150 ml). Thereafter, triethylamine (43 ml, 309 mmol) was added in a nitrogen atmosphere at room temperature to the mixture. The mixture was then stirred for 3 hours (exothermic reaction took place). The reaction mixture was separated by ethyl acetate and a saturated aqueous ammonium chloride solution and insoluble substance was removed by filtration. The organic layer of the filtrate was washed twice with a saturated aqueous ammonium chloride solution, dried over anhydrous magnesium sulfate, filtrated and concentrated to obtain the title compound (22.6 g, yield: 84.1%) as brown oil.

reactant | 2-methylpyridin-3-yl trifluoromethanesulfonate | 142 mmol, 34.3 g | FC(S(=O)(=O)OC=1C(=NC=CC1)C)(F)F | C7H6F3NO3S
reactant | trimethylsilylacetylene | 212 mmol, 30 ml | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 309 mmol, 43 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethyl formamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 14.2 mmol, 10.0 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 14.4 mmol, 2.75 g | [Cu]I
product | 2-methyl-3-((trimethylsilyl)ethynyl)pyridine | 22.6 g, yield: 84.1% | CC1=NC=CC=C1C#C[Si](C)(C)C | C11H15NSi
